US06180635B2
5-[(3-Acetamidophenyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione
Acetic anhydride (0.034 ml) was added to a solution of 5-[(3-aminophenyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl) thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione (60 mg) and triethylamine (0.067 ml ) in anhydrous dichloromethane (2 ml) at room temperature. After 1 hour, work-up and purification as in Example 32 gave the title compound (15 mg).

reactant | Acetic anhydride | 0.034 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-[(3-aminophenyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl) thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione | 60 mg | NC=1C=C(C=CC1)SC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C28H27N3O2S2
reactant | triethylamine | 0.067 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5-[(3-Acetamidophenyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione | 15 mg | C(C)(=O)NC=1C=C(C=CC1)SC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C30H29N3O3S2
